US06030972
1 Eq. of N-Boc-5-aminomethyl-2-cyanopyrimidine was introduced into dioxane at RT and, after addition of dioxane/HCl (5M), stirred at RT for 3 h. After conversion of the precursor was complete (TLC check: mobile phase A), the reaction mixture was concentrated and poured into ether. The precipitated solid was filtered off with suction, again dissolved in MeOH and poured into ether. The product was filtered off with suction and dried under high vacuum to afford 89% of the theoretical yield of 5-aminomethyl-2-cyanopyrimidine hydrochloride. FAB-MS (M+)=134

reactant | N-Boc-5-aminomethyl-2-cyanopyrimidine | 1 Eq. | C(=O)(OC(C)(C)C)N1C(N=CC(=C1)CN)C#N | C11H16N4O2
reactant | dioxane HCl | 5M | O1CCOCC1.Cl
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-aminomethyl-2-cyanopyrimidine hydrochloride | Cl.NCC=1C=NC(=NC1)C#N | InChI=1S/C6H6N4.ClH/c7-1-5-3-9-6(2-8)10-4-5;/h3-4H,1,7H2;1H
